US04795814
10 Grams of 4-[(1-ethoxy)ethoxy]cinnamyl acetoactate was dissolved in 20 ml of toluene, then 2 g of ammonia gas was passed through this solution at about 80° C. with stirring condition. The water formed during the reaction was removed by azeotropic distillation with toluene. 2 Hours after the azeotropic distillation, the toluene was removed by distillation under reduced pressure to yield 10 g of 4-[(1-ethoxy)ethoxy]cinnamyl 3-aminocrotonate as in the form of an oily substance.

reactant | 4-[(1-ethoxy)ethoxy]cinnamyl acetoactate | C(CC(=O)C)(=O)OCC=CC1=CC=C(C=C1)OCCOCC | C17H22O5
reactant | ammonia | 2 g | N | H3N
reactant | water | O | H2O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[(1-ethoxy)ethoxy]cinnamyl 3-aminocrotonate | 10 g | N\C(=C/C(=O)OCC=CC1=CC=C(C=C1)OCCOCC)\C | C17H23NO4
